US08461134B2
A solution of 2-(2-bromo-5-nitrophenyl)ethanol (12 g, 48.7 mmol) in THF (100 mL) was cooled to 0° C., then NaH (2.53 g, 60%) was added slowly, followed by stirring at 0° C. for half an hour. Then MeI (33 mL, 487 mmol) was dropwise added, followed by stirring at room temperature overnight. The solvent was evaporated, water was added. The aqueous layer was extracted with ethyl acetate 3 times. The combined organic phase was washed with brine, dried over sodium sulfate and concentrated to give 1-bromo-2-(2-methoxyethyl)-4-nitrobenzene (10 g, yield 80%). 1H NMR: 400 MHz CDCl3 δ 8.15 (s, 1H), 7.95-7.92 (m, 1H), 7.72-7.70 (m, 1H), 3.68-3.65 (m, 2H), 3.37 (s, 3H), 3.12-3.09 (m, 2H).

reactant | 2-(2-bromo-5-nitrophenyl)ethanol | 48.7 mmol, 12 g | BrC1=C(C=C(C=C1)[N+](=O)[O-])CCO | C8H8BrNO3
reactant | NaH | 2.53 g | [H-].[Na+]
reactant | MeI | 487 mmol, 33 mL | CI | CH3I
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 1-bromo-2-(2-methoxyethyl)-4-nitrobenzene | 10 g, yield 80% | BrC1=C(C=C(C=C1)[N+](=O)[O-])CCOC | C9H10BrNO3
